Name:  ___.          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr ___ is a ___ w HTN, HL, GERD, treated gonorrhea/HepB, 
who now p/w progressively worsening SOB and intermittent chest 
tightness x 2 mos. Also c/o dry cough, general body pain, neck 
stiffness. Sxs started ~2 mos ago, when pt admits to having a 
new male sexual partner. Has been trying to lose weight for BP 
control. No F/C. No N/V. No CP. No travel. Pt presented w 
similar complaints to the ___ ED one week prior, thought to 
have Mycoplasma pneumonia started on azithromycin 5-day course 
did not get better. On followup in PCP's office, tachycardic, 
tachypneic, SaO2=81% on RA w exertion, rapid HIV test reportedly 
positive. Sent back to the ___ ED.  
.  
In the ED, initial VS were: T=97.0, BP=128/78, P=82, R=18, O2 
sat 95% on RA. CXR showed worsening bibasilar opacities, L>R. 
Patient was given bactrim and levofloxacin. ID aware.  
.  
On the floor, pt comfortable. Desats easily into ___. ABG 
7.49/33/61, started on prednisone 40 BID. D/w ID.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denied arthralgias or 
myalgias.  
 
Past Medical History:
HTN  
HL
GERD   
Gonorrhea ___, successfully treated)  
Hepatitis B ___, treated per pt) 
Left malleolar fx (___)  

 
Social History:
___
Family History:
Mother died of lung cancer at ___.  
Father died of colon cancer at ___.  
Has a sister who does not have health issues.  
No h/o DM, CAD. 
 
Physical Exam:
ON ADMISSION:
VS: 98.9, 138/72, 64, 22, 91% on 3L O2 by NC  
GEN: well-appearing, anxious young man in NAD  
HEENT: NC/AT, PERRL, EOMI, anicteric sclera, MMM, no ulcers  
NECK: supple, no LAD  
CV: RRR, s1s2, no m/r/g  
CHEST: mild crackles, exp wheezes in bases, otherwise clear  
ABD: soft, NT/ND, NABS  
EXTR: WWP, no edema, good pulses throughout  
NEURO: AOx3, CNII-XII intact, ___ ___ strength b/l, sensation 
intact to sharps/light touch, 2+ DTR b/l in 
biceps/triceps/patella/Achilles, normal gait  
SKIN: no lesions or rashes  
.
ON DISCHARGE:
clear lungs b/l
 
Pertinent Results:
***** ON ADMISSION: *****
.
HEMATOLOGY:
___ 04:00PM BLOOD WBC-5.0 RBC-4.26* Hgb-13.9* Hct-37.9* 
MCV-89 MCH-32.7* MCHC-36.8* RDW-13.3 Plt ___
___ 04:00PM BLOOD Neuts-74.2* ___ Monos-5.0 Eos-0.4 
Baso-0.3
___ 04:00PM BLOOD ___ PTT-28.0 ___
___ 01:00PM BLOOD Ret Aut-1.8
.
CHEMISTRY:
___ 04:00PM BLOOD Glucose-91 UreaN-18 Creat-1.0 Na-137 
K-3.8 Cl-99 HCO3-26 AnGap-16
___ 04:00PM BLOOD ALT-46* AST-65* LD(LDH)-700* AlkPhos-88 
TotBili-0.5
___ 07:00AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.2 Cholest-173
___ 04:00PM BLOOD Albumin-4.0 Iron-30*
.
.
***** HOSPITAL COURSE: *****
.
HIV WORKUP:
.
___ 01:00PM BLOOD  
WBC-5.6 Lymph-26 
Abs ___ 
CD3%-86 Abs CD3-1251 
CD4%-8 Abs CD4-113* 
CD8%-77 Abs CD8-1115* 
CD4/CD8-0.10*
Viral Load 113K
.
___ 07:00AM BLOOD HIV Ab-POSITIVE
HIV-1 AB, WESTERN BLOT        POSITIVE  A
.
___ 06:20AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-POSITIVE HAV Ab-POSITIVE
___ 07:00AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-POSITIVE HAV Ab-POSITIVE
___ 07:00AM BLOOD HCV Ab-NEGATIVE
___ 06:20AM BLOOD HCV Ab-NEGATIVE
B-glucan - POSITIVE
.
.
___ 06:20AM BLOOD LD(LDH)-587*
___ 06:25AM BLOOD LD(LDH)-559*
.
___ 04:00PM BLOOD calTIBC-306 Ferritn-1324* TRF-235
___ 07:00AM BLOOD Triglyc-72 HDL-32 CHOL/HD-5.4 LDLcalc-127 
LDLmeas-123
.
URINE:
___ 04:51AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 01:02PM URINE Hours-RANDOM UreaN-1011 Creat-66 Na-43 
K-16 HCO3-LESS THAN 
___ 01:02PM URINE Osmolal-529
___ 04:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
.
MICROBIOLOGY:
Respiratory Viral Culture - NEGATIVE for influenza A&B, 
adenovirus, parainfluenza-virus ___, and RSV
.
Bronchialveolar lavage:
Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___: 
      POSITIVE FOR PNEUMOCYSTIS JIROVECII (CARINII). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Final ___: 
      HERPES SIMPLEX VIRUS TYPE 1. 
         CONFIRMED BY MONOCLONAL FLUORESCENT ANTIBODY.. 
.
RPR - NEGATIVE
Neisseria gonorrhoeae/Chlamydia trachomatis - NEGATIVE
Blood cultures - NEGATIVE
.
RADIOLOGY:
CXR (___):
IMPRESSION: Interval worsening of bibasilar opacities, left 
greater than 
right, concerning for worsening pneumonia. 
.  
CXR (___):
IMPRESSION: Mild increase in confluence of the right upper lobe 
opacity.  
Otherwise, no significant change. 
  

 
Brief Hospital Course:
In short, Mr ___ is a ___ w HTN, HL, GERD, treated 
gonorrhea/HepB, who presented w progressively worsening SOB and 
intermittent chest tightness x 2 mos, was found to have AIDS and 
Pneumocystis jirovecii pneumonia.
. 
# HIV/AIDS: Pt has multiple risk factors for HIV - man who had 
sex with man, multiple sexual partners, unsafe sexual practices. 
___ HIV-1 Ab screen positive, confirmed with Western Blot. CD4 
count = 113. Viral Load 113K. HIV Genotype pending. Given 
confirmed PCP on BAL, pt has full-blown AIDS. Started on HAART 
on ___ - truvada 1 tab daily, ritonavir 100mg BID, 
darunavir 600mg BID per Dr ___ in consideration w 
resistance-patterns in the community, which the pt tolerated 
very well. Considered discontinuing omeprazole (PPI), given 
concern for decreased GI absorption of PIs w PPIs, however, 
since pt has a long h/o symptomatic GERD, he might not be able 
to tolerate pills. Continued supportive measures and treatment 
for PCP. Close outpatient followup recommended. Checked for 
other co-infections (chlamydia, gonorrhea, RPR negative), 
___ immune, no active infection.
.
# SOB: confirmed PCP. Pt presenting w respiratory sxs (dry 
cough, SOB, DOE, chest tightness, as well as malaise), exam 
notable for mild basilar crackles/exp wheezes, labs notable for 
normal WBC count, elevated LDH of 700. Negative CTA for PE on 
___. CXR w worsening PNA. Etiology considered includes 
infection - PCP vs CAP ("walking") PNA. Not likely to be 
cardiac. Started on Bactrim DS 2 tabs TID on ___ for a 
21-day course for presumed PCP and levofloxacin 750mg daily for 
other causes of PNA. Once AIDS/PCP confirmed, levofloxacin was 
discontinued (received 4 doses total). Due to respiratory 
distress ABG was checked (7.49/33/61). Given hypoxemia and 
increased A-a gradient (47mmHg > 35), pt was started on 
prednisone 40mg BID on ___. To confirm PCP, sputum induction was 
attempted at first, but after 3 unsuccessful attempts a BAL had 
to be performed. The lavaged fluid was positive for Pneumocystis 
jirovecii. The prednisone was continued at BID dosing for 8 days 
given pts increased oxygen requirement (up to 50% O2 by ___ 
mask). Respiration improved and on discharge pt is >90% on RA at 
rest, but desats to high-80s w walking. Discharged on bactrim, 
prednisone and home O2.
.  
# Anemia: Likely Anemia of Chronic Inflammation vs 
myelosuppression from HIV. Hct ___ on admission, nl MCV, 
reticulocyte index < 2. Low serum iron, low TIBC, increased 
ferritin.
.  
# HTN: Pt normotensive on home regimen, continue HCTZ and 
valsartan.  
.  
# HL: Lipid panel checked, outpatient followup recommended given 
increased risk for metabolic syndrome/dyslipidemia w HIV on 
HAART.  
.  
# Contact: ___ (sister) ___ *** Pt prefers that NO 
ONE IS CONTACTED without permission ***  

 
Medications on Admission:
valsartan 160mg daily
HCTZ 25mg daily
omeprazole 20mg daily 
MVI 1 tab daily  
FishOil 1000mg daily

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acquired immuno-deficiency syndrome
pneumocystis jiroveci pneumonia
.
hypertension
hyperlipidemia
anxiety
gastroesophageal reflux disease

 
Discharge Condition:
afebrile, hemodynamically stable, oxygenating at >90% on room 
air at rest, desaturating to mid-80s with activity 

 
Discharge Instructions:
You were admitted to the hospital w shortness of breath. You 
were found to have AIDS - active HIV infection w Pneumocystis 
jirovecii pneumonia. You were evaluated by our infectious 
disease and pulmonary specialists. You were treated w 
antibiotics and supportive measures. We also started you on 
anti-retroviral medications to treat your HIV infection. It is 
extremely important that you take your medications regularly and 
continue to follow up with your physicians.
.
Your medications were changed as follows:
1. Started Truvada, Ritonavir, Darunavir for HIV
2. Started Bactrim, prednisone for Pneumocystis jiroveci 
pneumonia
3. Also gave trazodone for sleep as needed
4. Please continue taking your other medications as before.
.
If you have fever, chills, shortness of breath or pain, please 
call your physician ___.
 
Followup Instructions:
___